US05591776
N-Benzyl-N'-(3,5-dichloropyrid-4-yl)-3-cyclopentyloxy-4-methoxybenzamidine
A solution of N-(3,5-dichloropyrid-4-yl)-3-cyclopentyloxy-4-methoxybenzamide (1 gram, 2.62 mmol) in phosphoryl chloride (15 milliliters, 161 mmol) and N, N-dimethylaniline (0.75 milliliters) was refluxed under nitrogen for 20 hours. The mixture was cooled to room temperature, volatiles removed in-vacuo, and the brown residue azeotroped with toluene (3×20 milliliters). The crude imino chloride was dissolved in toluene (15 milliliters), an excess of benzylamine (2.57 milliliters, 23.58 mmol) was added in one portion and the mixture refluxed, under nitrogen, for 4 hours. The mixture was cooled to room temperature, volatiles removed in-vacuo, and the residue dissolved in chloroform (100 milliliters) and washed with water (2×50 milliliters). The combined organics were dried (Na2SO4) and volatiles removed in-vacuo to yield a white solid. The mixture was purified by flash chromatography (SiO2 ; ethyl acetate: hexane (1:9), followed by ethyl acetate: hexane (1:4)) to yield the title compound (624 milligrams, 50 %) as a white crystalline solid, m.p. 129°-133° C.

reactant | N-(3,5-dichloropyrid-4-yl)-3-cyclopentyloxy-4-methoxybenzamide | 2.62 mmol, 1 gram | ClC=1C=NC=C(C1NC(C1=CC(=C(C=C1)OC)OC1CCCC1)=O)Cl | C18H18Cl2N2O3
reactant | phosphoryl chloride | 161 mmol, 15 milliliters | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | benzylamine | 23.58 mmol, 2.57 milliliters | C(C1=CC=CC=C1)N | C7H9N
solvent | N, N-dimethylaniline | 0.75 milliliters | CN(C1=CC=CC=C1)C | C8H11N
product | N-Benzyl-N'-(3,5-dichloropyrid-4-yl)-3-cyclopentyloxy-4-methoxybenzamidine | 624 milligrams, 50 % | C(C1=CC=CC=C1)NC(C1=CC(=C(C=C1)OC)OC1CCCC1)=NC1=C(C=NC=C1Cl)Cl | C25H25Cl2N3O2
